US05026856
7(5-bromo-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid
142 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid, 150 mg of 5-bromoisoindoline, 114 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 82 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid | 142 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 5-bromoisoindoline | 150 mg | BrC=1C=C2CNCC2=CC1 | C8H8BrN
reactant | DBU | 114 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7(5-bromo-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 82 mg | BrC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H15BrF2N2O3
